Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / fentanyl
 
Attending: ___
 
Chief Complaint:
right facial drooping, visual changes
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year-old right-handed woman, history of
peripartum depression and recently 10 days postpartum s/p
spontaneous vaginal delivery complicated by postpartum
hemorrhage, who presents with 3 day history of visual changes 
and
a 1 day history of right facial droop.  History obtained from
patient.

Ms. ___ was recently discharged from ___ OB/GYN department on
___ after having a spontaneous vaginal delivery. EBL was 800cc
and she initially had episode of hypotension to SBP ___, but 
this
was an isolated episode. She was discharged in good health,
asymptomatic. Of note, she did receive an epidural prior to
delivery. 

Three days ago, patient began noticing seeing "little circles"
out of the periphery of vision, out of both eyes. These were 
very
subtle and barely noticeable; patient actually has minimal
recollection of them. She describes "bright white little circles
traveling down." This was episodic and lasted for just a few
seconds at a time. She denied any loss of vision, headache,
nausea/vomiting, photophobia, or phonophobia at this time. 

The following day, patient noticed that when eating she had
liquids dribble out of the corner of her mouth. It was also
subtle, but she did notice it enough to mention it to her
husband. She remained with the intermittent visual changes, for
several episodes per day. 

The patient went to bed last night in her usual state of health.
This morning, she woke up around 6am and immediately started
breastfeeding her son. She notes that she looked at her husband
right after waking up, and felt a "paralyzed" sensation out of
the right face. She attributed this to sleep deprivation from
taking care of her newborn and went to sleep. When she woke up a
few hours later, she remained with the feeling and went to the
bathroom. When she was in the bathroom, she saw herself in the
mirror and noticed that the right side of the face was droopy.
She subsequently called her husband at 11:30AM, who noticed that
her voice sounded "almost slurred", but no overt dysarthria, no
word finding difficulties, no difficulties comprehending speech.
The patient herself did not notice this. 

Thirty minutes later, at noon, she developed tingling over the
right hand, predominantly at her fingertrips, that went away
after a few minutes. She notes she was anxious prior to this
occurring. 

A few hours later, she began developing a sharp pain near the 
right ear. This is newto her and she typically does not have 
headaches.  No
photophobia, no phonophobia, no more of the changes out of
periphery of vision.

She also noticed that at some point this afternoon it became
harder to close the right eye. Denies any numbness/tingling over
the face, arms or body. Denies any sensitivity to noise. Denies
any ear pain.

Due to concern for stroke, she presented to the ___ ED where
she has remained hemodynamically stable. 

Of note, patient reports she has had a longstanding history of
having cold sores on her lips. No history of genital ulcers.
Denies any recent rashes. No tick bites. No history of headache.
Denies fevers/chills, denies recent illness. 

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Peripartum depression 
Denies any other medical history including HTN, HLD, DM2

 
Social History:
___
Family History:
Mother has "inflamed dura" and migraines. No family
members with stroke. Father- retinal detachment

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
========================
Vitals: T 99.0F, HR 63, BP 100/65, RR 16, O2 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx. No hyperacusis. Ears examined with otoscope, no
lesions noticed in the ear and positive light reflex. 
Neck: Supple, no nuchal rigidity
Pulmonary: breathing non labored on room air 
Cardiac: warm and well perfused; regular on telemetry
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities: No cyanosis, clubbing or edema bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Attentive,
able to name ___ backward without difficulty. Language is fluent
with intact repetition and comprehension. Normal prosody. There
were no paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt was able to register 3 objects and recall ___ at 5
minutes. The pt had good knowledge of current events. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: slight anisocoria, L pupil 3>2, R pupil 2.5>2. VFF to
confrontation. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus. No skew. Normal saccades.
V: Facial sensation intact to light touch and pinprick.
VII: Right lower facial droop. Slightly decreased wrinkling of
forehead on the right. Slight weakness of orbicularis oculi on
right compared to the left. Normal taste sensation on both sides
of the tongue.
VIII: Hearing intact to finger-rub bilaterally. Normal Rhinne 
and
Weber test. No hyperacusis. 
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, pinprick, cold sensation,
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L 2+  2+   2+   2+  2+ 
R 2+  2+   2+   2+  2+ 
Plantar response was withdrawal bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE PHYSICAL EXAM: 
========================
VS: T 97.3 (Tmax 97.7), HR ___, BP 100s/60s, RR 14, O2 99% 
RA  
 GEN: well-appearing woman in no acute distress or discomfort  
 HEENT: no lesions or erythema around external ears bilaterally. 
 
 NEURO:  
 - MS: alert and oriented, pleasantly interactive and 
cooperative throughout the interview. Speech is fluent with 
normal rate, rhythm, and volume, no dysarthria.  
 - CN: pupils 3->2 b/l, VFF to confrontation, EOMI without 
nystagmus, facial sensation intact to light touch, decreased 
wrinkling of right forehead, moderate weakness of right 
orbicularis oculi compared to left, right NLFF, right lower 
facial droop with asymmetric smile, palate elevates 
symmetrically, ___ strength of trapezii and SCM bilaterally, 
tongue midline with full ROM  
 - Motor: normal bulk and tone, ___ throughout  
 - Sensory: intact and equal to light touch bilaterally upper 
and  
 lower extremities  
 - Coordination: no dysmetria on FNF bilaterally 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 05:15PM URINE  HOURS-RANDOM
___ 05:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 05:15PM URINE  RBC-1 WBC-7* BACTERIA-FEW* YEAST-NONE 
EPI-1 TRANS EPI-<1

___ 06:25AM BLOOD WBC-6.7# RBC-3.67* Hgb-10.7* Hct-33.3* 
MCV-91 MCH-29.2 MCHC-32.1 RDW-12.0 RDWSD-39.9 Plt ___
___ 06:25AM BLOOD Glucose-79 UreaN-9 Creat-0.6 Na-141 K-4.7 
Cl-105 HCO3-23 AnGap-13
___ 06:25AM BLOOD Calcium-9.0 Phos-4.3 Mg-1.9

IMAGING: 
========

+ CTA HEAD AND NECK
No dissection, no aneurysm no stenosis. 

+ MRI/MRV
The brain is normal in volume, morphology and signal intensity.  
The 
ventricular profile is normal.  No intracranial masses.  No 
hemorrhages.  The  intracranial vessels demonstrate normal flow 
voids.  No evidence of PRES.   Visualized portion of the upper 
parotid glands, including stylomastoid foramen  are normal. 
  
MRV: Normal flow signal is demonstrated within the superior 
sagittal sinus,  straight sinus, transverse sinuses, and sigmoid 
sinuses.  The left transverse  sinus is hypoplastic.  The 
jugular bulbs and proximal jugular veins are patent. Evaluation 
of the deep venous systems reveals normal flow signal in  the 
terminal internal cerebral veins. The vein ___ is also 
unremarkable. 

MICRO: 
======
UCx negative

 
Brief Hospital Course:
___ year old female, 10 days post-partum who presented with 3 day 
history of right facial droop as well as some visual changes. 

#Right facial droop
#Bell's Palsy
She presented with right  Bell's Palsy (Grade III). She did not 
have any other cranial nerve deficits. She had CT head which 
showed no acute infarct. MRI showed no intracranial hemorrhage, 
stroke or mass. MRV showed patent veins. Since vasospasm is on 
the differential diagnosis, CTA head was done and did not show 
evidence of vasospasm. At the moment, in the absence of headache 
and radiological evidence of vasospasm, we decided not start her 
on magnesium or verapamil. She was started on prednisone 60 mg 
daily with plan for 7 day treatment and Valtrex ___ mg TID for 
7 days. She will also need saline eye drops and an eye patch 
(for night time use).

#Visual changes
She reported several days of bilateral peripheral flashing 
lights with no papilledema and intact cranial nerves. We also 
consulted ophthalmology because we did not have a good 
explanation for her visual symptoms. No retinal detachment or 
increased ocular pressure was found on the bedside ophthalmology 
exam. Given her family history of idiopathic retinal detachment, 
she will follow-up with ophthalmology to track her symptoms. 

TRANSITIONAL ISSUES: 
====================
[] prednisone 60 mg daily and Valtrex ___ mg TID (day ___ 
with plan for 7 day treatment course. 
[] Please follow-up CBC as she remains w/ low Hgb, elevated 
platelets (although post-partum). 
[] Lyme serologies pending at time of discharge.
[] Final read of CTA head and neck pending at discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  Artificial Tears ___ DROP RIGHT EYE PRN Eye dryness   
2.  PredniSONE 60 mg PO DAILY Duration: 7 Days 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
3.  ValACYclovir 1000 mg PO Q8H Duration: 7 Days 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth three times a day 
Disp #*7 Tablet Refills:*0 
4.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bell's Palsy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure caring for you at ___. You came to the 
hospital because you had right facial drooping. This is caused 
by "Bell's Palsy", a condition which affects your ___ cranial 
nerve. 

Bell's palsy is a condition that causes 1 side of a person's 
face to become weak or droop. This can happen when 1 of the 
nerves that control the muscles in the face gets damaged or 
stops working. Damage to this nerve usually happens when the 
nerve becomes swollen or inflamed because of an infection with a 
virus (credit: Up-To-Date patient handout).

Most people with Bell's palsy recover completely. But some 
people have symptoms of Bell's palsy for the rest of their life.

We did imaging of your brain which showed you did not have a 
stroke and you do not have any vascular abnormalities. 

Now that you are going home, you will take prednisone 60 mg 
daily for 7 days and Valtrex 1g three times a day for 7 days, 
which may help with the facial nerve inflammation. You will also 
need to use saline drops in your right eye to prevent drying. 

Please follow-up with your PCP ___ 7 days of discharge. 
Please follow-up with ophthalmology clinic within 1 month. 
Please follow-up with Neurology in ___ months. We are working on 
scheduling your ophthalmology and neurology appointments. See 
follow-up instructions for details. 

We wish you the best!
- ___ Neurology Team  
 
Followup Instructions:
___